US09359298B2
Preparation of 1,3-dimethoxy-5-[(E)-3,4,5-triacetoxystyryl]benzene (21i)
Use diethyl 3,5-dimethoxybenzyl phosphate and 3,4,5-triacetoxybenzaldehyde as materials, and follow the method described in Example 5 to obtain a white solid as the target product (75%). 1H NMR (400 MHz, DMSO-d6): 2.08 (s, 9H), 3.77 (s, 6H), 6.22 (s, 1H), 6.84 (s, 2H), 6.91 (d, J=16.0 Hz, 1H), 6.92 (d, J=16.0 Hz, 1H), 7.01 (s, 2H).

reactant | diethyl 3,5-dimethoxybenzyl phosphate | P(=O)(OCC)(OCC)OCC1=CC(=CC(=C1)OC)OC | C13H21O6P
reactant | 3,4,5-triacetoxybenzaldehyde | C(C)(=O)OC=1C=C(C=O)C=C(C1OC(C)=O)OC(C)=O | C13H12O7
product | 1,3-dimethoxy-5-[(E)-3,4,5-triacetoxystyryl]benzene | 75% | COC1=CC(=CC(=C1)\C=C\C1=CC(=C(C(=C1)OC(C)=O)OC(C)=O)OC(C)=O)OC | C22H22O8
